US05254655
N-(2-hydroxyethyl)-4-nitrobenzenamine (9.1 g, 0.05 mol) is treated with allyl bromide in N-methylpyrrolidone, also as subsequently discussed in Example 11, to provide N-allyl-N-(2-hydroxyethyl)-4-nitrobenzenamine.

reactant | N-(2-hydroxyethyl)-4-nitrobenzenamine | 0.05 mol, 9.1 g | OCCNC1=CC=C(C=C1)[N+](=O)[O-] | C8H10N2O3
reactant | allyl bromide | C(C=C)Br | C3H5Br
solvent | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
product | N-allyl-N-(2-hydroxyethyl)-4-nitrobenzenamine | C(C=C)N(C1=CC=C(C=C1)[N+](=O)[O-])CCO | C11H14N2O3
